US04070539
To a suspension of (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid (6.06 g., 0.02 mole) in glacial acetic acid (100 ml.) and concentrated hydrochloric acid (2 drops) is added, with stirring, a solution of glacial acetic acid (50 ml.) and chlorine (1.56 g., 0.22 mole) over a period of 10 minutes. During the addition the reaction vessel is heated on a steam bath. After the addition is complete, the mixture is stirred without heating for 30 minutes and then poured into ice water (600 ml.). The white solid that separates is collected by filtration, washed with water and dried to afford 6.6 g. (98% yield) of (1-oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)acetic acid, m.p. 185°-187° C. After recrystallization from acetic acid (25 ml.) the yield of (1-oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)acetic acid is 5.7 g., m.p. 186°-188° C.

reactant | (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.02 mole, 6.06 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)CC | C13H12Cl2O4
reactant | chlorine | 0.22 mole, 1.56 g | ClCl | Cl2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)acetic acid | 98% yield | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(Cl)CC | C13H11Cl3O4
